US07968711B2
4,5-Dibromo-2-(3,5-difluorophenyl)pyridazin-3-one
Mucobromic acid (2.8 g, 0.011 moles) was dissolved in ethanol (75 ml) and 3,5-difluorophenyl hydrazine hydrochloride (1.8 g, 0.01 moles) was added. After 30 minutes, triethylamine (1.4 ml, 0.01 moles) was added. The reaction mixture was stirred at room temperature for 3 hours. Evaporated to a low bulk and the residue was suspended in glacial acetic acid (80 ml). Refluxed with stirring overnight to give a brown solution. Evaporated to dryness and triturated with methanol to give the required product as a pale brown solid. (3.4 g, 93%)

reactant | Mucobromic acid | 0.011 moles, 2.8 g | C(/C(/Br)=C(/Br)\C=O)(=O)O | C4H2Br2O3
reactant | 3,5-difluorophenyl hydrazine hydrochloride | 0.01 moles, 1.8 g | Cl.FC=1C=C(C=C(C1)F)NN
reactant | triethylamine | 0.01 moles, 1.4 ml | C(C)N(CC)CC | C6H15N
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 4,5-Dibromo-2-(3,5-difluorophenyl)pyridazin-3-one | BrC=1C(N(N=CC1Br)C1=CC(=CC(=C1)F)F)=O | C10H4Br2F2N2O
